US07208633B2
bis(p-tert-butylphenyl)phosphine-borane complex
Under a nitrogen stream, a solution of cerium chloride (19.84 g, 2.98 equivalents) in THF (160 mL) was stirred at room temperature (25° C.) for 30 min. Sodium borohydride (3.11 g, 3.04 equivalents) was added, and the mixture was stirred at room temperature for 1.5 hrs. Then bis(p-tert-butylphenyl)phosphine oxide (8.49 g, 27.0 mmol) synthesized in Reference Example 15 and lithium aluminum hydride (1.55 g, 1.21 equivalents) were successively added at −17° C. and the mixture was stirred at room temperature for 2 hrs. Toluene (80 mL) was added at −10° C. and then 6M-HCl (25 mL) was added and water (25 mL) was added at 4° C. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was washed successively with water (30 mL)., 10% aqueous NaHCO3 solution (30 mL) and 10% aqueous NaCl solution (30 mL) The organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and further passed through a membrane filter (0.2 μm) under reduced pressure. The filtrate was concentrated under reduced pressure. The residue was dissolved in THF (100 mL) and a borane-THF complex (10 mL, 0.38 equivalent) was added at room temperature. The mixture was stirred for 16 hrs. and concentrated under reduced pressure. Toluene (30 mL) was added to the residue for dissolution, and the mixture was purified by silica gel column chromatography (silica gel 100 g, toluene), an effective fraction was concentrated under reduced pressure. The residue was recrystallized from n-hexane and dried (reduced pressure, 40° C.) to give the title compound (6.33 g, white powder). yield 75.0%. melting point: 151.5° C.

reactant | cerium chloride | 19.84 g, 2.98 equivalents | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Sodium borohydride | 3.11 g, 3.04 equivalents | [BH4-].[Na+]
reactant | bis(p-tert-butylphenyl)phosphine oxide | 27.0 mmol, 8.49 g | C(C)(C)(C)C1=CC=C(C=C1)P(C1=CC=C(C=C1)C(C)(C)C)=O | C20H27OP
reactant | lithium aluminum hydride | 1.55 g, 1.21 equivalents | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 25 mL | Cl | ClH
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
solvent | Toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | bis(p-tert-butylphenyl)phosphine borane | 6.33 g, yield 75.0% | C(C)(C)(C)C1=CC=C(C=C1)PC1=CC=C(C=C1)C(C)(C)C.B | InChI=1S/C20H27P.BH3/c1-19(2,3)15-7-11-17(12-8-15)21-18-13-9-16(10-14-18)20(4,5)6;/h7-14,21H,1-6H3;1H3
